* H:\Documents\Updated Skripise\IJK\Combined Circuit.asc
Q1 N005 N013 N011 0 BC847B
R1 N013 0 2.2k
R2 N007 N013 4.3k
R3 N007 N006 1
R4 0 N014 56
R5 N009 N010 0.3
R6 Vout 0 270
C1 N013 0 5.6n
C2 Vout N005 20n
C3 N009 Vin 22n
L1 N011 N010 {L1}
L2 N006 N005 {L2}
V1 N007 0 6
V2 N015 0 0 AC 2
L3 N011 N014 560µ
R7 N003 N015 50
R8 N003 N008 50
L4 N008 0 80µ
C4 N004 N003 31.84n
R9 N004 N008 50
R10 Vin N004 50
R11 N004 0 50
C5 N001 Vout 1n
C6 Vout N012 983.58p
L5 Vout N001 6.44µ
C7 N002 N001 1n
L6 N001 N002 6.44µ
C8 N001 N012 3183p
C9 N002 N012 983.58p
Ro N002 0 50
R12 Vout 0 50
.model NPN NPN
.model PNP PNP
.lib C:\Users\24696889\AppData\Local\LTspice\lib\cmp\standard.bjt
;.op
.ac dec 101 10k 100Meg
k23 L1 L2 0.95
.param L1=56u
.param L2=NR*L1
.param NR=16
.backanno
.end
