* H:\Documents\Updated Skripise\IJK\Passive LC Filter Circuit.asc
C1 N001 0 983.58p
L1 N001 N002 6.44µ
C2 N002 0 3183p
L2 N002 N003 6.44µ
C3 N003 0 983.58p
Cs N002 N001 1n
Cv N003 N002 1n
R1 N001 N004 50
V1 N004 0 AC 2 0
R2 N003 0 50
.ac dec 101 10k 10Meg
.backanno
.end
